US06133303
Step 6: 3-(3-Methoxy-4-methylphenyl)propyl cyanide
A solution of 8.68 g (35.7 mmol) of 4-(3-bromopropyl)-2-methoxy-1-methylbenzene in 50 mL of acetone and 50 mL of EtOH was treated with a solution of 2.8 g (42.8 mmol) of KCN in 20 mL of H2O and heated at reflux overnight. The solvent was removed under reduced pressure and the residue taken up in EtOAc and washed with H2O, then saturated NaCl. Drying over MgSO4 and removal of the solvent under reduced pressure left 6.75 g (100% yield) of the product as an oil. The structure was confirmed by NMR and IR spectroscopy.

reactant | 4-(3-bromopropyl)-2-methoxy-1-methylbenzene | 35.7 mmol, 8.68 g | BrCCCC1=CC(=C(C=C1)C)OC | C11H15BrO
reactant | KCN | 42.8 mmol, 2.8 g | [C-]#N.[K+]
solvent | acetone | 50 mL | CC(=O)C | C3H6O
solvent | EtOH | 50 mL | CCO | C2H6O
solvent | H2O | 20 mL | O | H2O
product | 3-(3-Methoxy-4-methylphenyl)propyl cyanide | 6.75 g, 100% yield | COC=1C=C(C=CC1C)CCCC#N | C12H15NO
